US07179823B1
A mixture of ethyl 3-hydroxy-1H-pyrazol-4-carboxylate (10.30 g), 4-benzyloxybenzyl chloride (18.60 g), potassium carbonate (16.60 g), and N,N-dimethylformamide (200 ml) was stirred at 100° C. overnight. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with dilute hydrochloric acid, then, with saturated aqueous sodium chloride solution, and dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 1-(4-benzyloxybenzyl)-3-(4-benzyloxybenzyloxy)-1H-pyrazol-4-carboxylate (11.90 g, yield: 54%) was obtained as colorless crystals from the fraction eluted with ethyl acetate. This was recrystallized from ethyl acetate-hexane. Melting point: 124–125° C.

reactant | ethyl 3-hydroxy-1H-pyrazol-4-carboxylate | 10.30 g | OC1=NNC=C1C(=O)OCC | C6H8N2O3
reactant | 4-benzyloxybenzyl chloride | 18.60 g | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | potassium carbonate | 16.60 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | ethyl 1-(4-benzyloxybenzyl)-3-(4-benzyloxybenzyloxy)-1H-pyrazol-4-carboxylate | 11.90 g, yield: 54% | C(C1=CC=CC=C1)OC1=CC=C(CN2N=C(C(=C2)C(=O)OCC)OCC2=CC=C(C=C2)OCC2=CC=CC=C2)C=C1 | C34H32N2O5
